US08440689B2
A. tert-Butyl (5-(6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-4-yl)-1,3-thiazol-2-yl)carbamate
A solution of tert-butyl (1S,2R)-2-(4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate (50 mg, 0.091 mmol), tert-butyl 5-(tributylstannyl)thiazol-2-ylcarbamate (53.5 mg, 0.109 mmol), and tetrakis(triphenylphosphine)palladium(0) (105 mg, 0.091 mmol) in toluene (1 mL) was heated to 102° C. for 24 h. After removal of the solvent, the resulting crude material was reconstituted in MeOH/DMF (6.0 mL) and purified via preparative HPLC eluting with water (0.05% TFA) and ACN (70-75% gradient, 0.035% TFA). The collected fractions were stripped to dryness via rotary evaporation to yield the title compound (42 mg, 64%). [M+H] calc'd for C35H45FN6O7S, 713. found, 713.

reactant | tert-butyl (1S,2R)-2-(4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | 0.091 mmol, 50 mg | ClC1=NC(=C(C2=C1C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F)N[C@H]2[C@H](CCCC2)NC(OC(C)(C)C)=O | C27H34ClFN4O5
reactant | tert-butyl 5-(tributylstannyl)thiazol-2-ylcarbamate | 0.109 mmol, 53.5 mg | C(CCC)[Sn](C1=CN=C(S1)NC(OC(C)(C)C)=O)(CCCC)CCCC
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.091 mmol, 105 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl (5-(6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-4-yl)-1,3-thiazol-2-yl)carbamate | 42 mg, 64% | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C1=CN=C(S1)NC(OC(C)(C)C)=O)C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F | C35H45FN6O7S
